US05219871
Preparation of N-{2-(2,3-dihydrobenzofuran-5-yl)ethyl}-methylamine
A solution of 5-(2-bromoethyl)-2,3-dihydrobenzofuran (1.5 g-see Preparation 20) in 33% methylamine in methanol (40 ml) was heated at 100° C. in a stainless steel pressure vessel for 6 hours then concentrated in vacuo. The residue was partitioned between dichloromethane (50 ml) and 10% aqueous sodium carbonate (50 ml). The layers were separated and the aqueous layer was further extracted with dichloromethane (2×50 ml). The aqueous layer was concentrated in vacuo to give a solid which was triturated with boiling 2-propanol. The mixture was filtered and the filtrate concentrated in vacuo to give a solid which was purified by column chromatography on silica eluting with dichloromethane containing methanol (0% up to 1%). The product-containing fractions were combined and concentrated in vacuo to give the title compound as a colourless solid, yield, 0.31 g, m.p. 153°-155° C.

reactant | 5-(2-bromoethyl)-2,3-dihydrobenzofuran | 1.5 g | BrCCC=1C=CC2=C(CCO2)C1 | C10H11BrO
reactant | methylamine | CN | CH5N
solvent | methanol | 40 ml | CO | CH4O
product | N-{2-(2,3-dihydrobenzofuran-5-yl)ethyl}-methylamine | O1CCC2=C1C=CC(=C2)CCNC | C11H15NO
